US07282501B2
Step D: 3-(2-Aminomethyl-4-hydroxy-phenyl)-propionic acid tert-butyl ester
A solution of 3-[4-hydroxy-2-(hydroxyimino-methyl)-phenyl]-acrylic acid tert-butyl ester (0.50 g, 1.9 mmol) in ethanol (50 mL) was treated with 10% palladium on carbon (0.25 g). The resulting suspension was treated with hydrogen using a Parr shaker apparatus at ambient temperature and 50 psi for 16 h. The reaction mixture was filtered through Celite, rinsed with ethanol (20 mL), and concentrated. The residue was dissolved in ethyl acetate (50 mL) and washed with 10% K2CO3 solution (2×25 mL) and 1N NaOH (2×25 mL). The organic layer was dried (Na2SO4), filtered, and concentrated. The residue was crystallized from isopropyl acetate to give the title compound (0.14 g, 40%), mp 154-157° C. 1H NMR (CD3OD): δ 1.37 (s, 9H), 2.44-2.50 (t, 2H), 2.80-2.85 (t, 2H), 3.75 (s, 2H), 4.83 (s, 3H), 6.57-6.63 (dd, 1H), 6.75-6.77 (d, 1H), 6.95-7.00 (d, 1H). MS (ES+) m/z 252.1 ([M+H]+). MS (ES−) m/z 250.2 ([M−H]−). Anal. Calculated for C14H21NO3: C: 66.9069; H: 8.4222; N: 5.5731. Found: C: 66.57; H: 8.29; N: 5.60.

reactant | 3-[4-hydroxy-2-(hydroxyimino-methyl)-phenyl]-acrylic acid tert-butyl ester | 1.9 mmol, 0.50 g | C(C)(C)(C)OC(C=CC1=C(C=C(C=C1)O)C=NO)=O | C14H17NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
product | 3-(2-Aminomethyl-4-hydroxy-phenyl)-propionic acid tert-butyl ester | 0.14 g, 40% | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)CN)=O | C14H21NO3
